data/oMe_Silver.jsonl
{"reaction_id": "NR-073_1-CC_2-CCCC(C)C","name": "Fritsch-Buttenberg-Wiechell Rearrangement","level": "medium","reactants_smiles": ["C(=C(Br))(CC)(CCCC(C)C)"],"products_smiles": ["C(CC)#C(CCCC(C)C)"],"conditions": "Base (e.g., LDA)","mechnism_text_description": "The Fritsch-Buttenberg-Wiechell rearrangement begins with the deprotonation of the vinylic hydrogen by a strong base, forming a vinyl anion. This is followed by an α-elimination of the halide, which generates a vinyl carbene intermediate. The final step involves a 1,2-migration of one of the R groups, leading to the formation of the alkyne product.","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=[C-]Br)(CC)(CCCC(C)C)","step_weight": 0,"rationale": "LDA, a strong non-nucleophilic base, abstracts the acidic vinylic proton due to the adjacent electron-withdrawing bromine, stabilizing the resulting vinyl anion via inductive effects."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=[C])(CC)(CCCC(C)C)","step_weight": 0,"rationale": "The negatively charged carbon promotes α-elimination of bromide, a good leaving group, forming a high-energy vinyl carbene stabilized transiently by adjacent substituents."},{"step": 3,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(CC)#C(CCCC(C)C)","step_weight": 0,"rationale": "The carbene undergoes a 1,2-shift of CC or CCCC(C)C to relieve electron deficiency, forming the more stable, conjugated alkyne via rehybridization to sp."}],"description": "A strong base deprotonates the vinylic position to generate a vinyl anion, which undergoes α-elimination of bromide to form a reactive vinyl carbene. A 1,2-shift of an R group then produces the thermodynamically stable alkyne product."}
{"reaction_id": "NR-335_1-c2ccc(OC)cc2_2-c2ccccc2_3-F_4-C2CCCCC2_5-CC_6-C(=O)C_7-CC","level": "medium","name": "Robinson Annulation","reactants_smiles": ["C(=C(F)C(=O)C2CCCCC2)(c2ccc(OC)cc2)c2ccccc2","C(CC)(C(=O)C)C(=O)CC"],"products_smiles": ["C1(=C(C2CCCCC2)C(=O)C(C(c2ccc(OC)cc2)(c2ccccc2)C1(CC)C(=O)C)F)CC"],"conditions": "Catalytic base","mechanism_step_nums": 7,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=C(CC)C(=O)C)([O-])CC","step_weight": 0,"rationale": "The base abstracts an α-proton adjacent to the carbonyl, generating a resonance-stabilized enolate due to delocalization over the carbonyl oxygen."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(=O)(C(C(c2ccc(OC)cc2)(c2ccccc2)C(=C([O-])CC2CCCCC2)F)(CC)C(=O)C)CC","step_weight": 0,"rationale": "The nucleophilic enolate attacks the β-carbon of the α,β-unsaturated carbonyl via Michael addition, favored by conjugation and electrophilicity at the β-position."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(C(C(c2ccc(OC)cc2)(c2ccccc2)C(F)C(=O)CC2CCCCC2)(CC)C(=O)C)CC","step_weight": 0,"rationale": "Protonation of the enolate oxygen regenerates a neutral carbonyl, stabilizing the intermediate and preparing for further enolate formation."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(C(C(c2ccc(OC)cc2)(c2ccccc2)C(F)C([O-])=CC2CCCCC2)(CC)C(=O)C)CC","step_weight": 0,"rationale": "The base deprotonates another α-position, forming a new enolate that is positioned for intramolecular nucleophilic attack."},{"step": 5,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1(C(C2CCCCC2)C(=O)C(C(c2ccc(OC)cc2)(c2ccccc2)C1(CC)C(=O)C)F)(CC)[O-]","step_weight": 0,"rationale": "The enolate attacks the intramolecular carbonyl, forming a six-membered ring via aldol cyclization, favored by minimal ring strain."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1(C(C2CCCCC2)=C([O-])C(C(c2ccc(OC)cc2)(c2ccccc2)C1(CC)C(=O)C)F)(CC)O","step_weight": 0,"rationale": "Proton transfer converts the alkoxide intermediate into a β-hydroxy carbonyl, setting up for elimination."},{"step": 7,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C1(=C(C2CCCCC2)C(=O)C(C(c2ccc(OC)cc2)(c2ccccc2)C1(CC)C(=O)C)F)CC","step_weight": 0,"rationale": "Base-induced elimination of water forms the α,β-unsaturated carbonyl, driven by conjugation and thermodynamic stability of the enone."}],"description": "Under basic conditions, the Robinson annulation proceeds via enolate formation, Michael addition to an α,β-unsaturated carbonyl, followed by intramolecular aldol condensation and dehydration. The base promotes enolate generation, facilitates C–C bond formation, and drives cyclization to the conjugated cyclohexenone product."}
